US03947434
C. 4-Methoxy-3-nitrophenol
A mixture of 61 g. (0.29 m.) of 4-methoxy-3-nitrophenyl acetate (part B) and 34.68 g. (0.87 g. (0.87 m.) of NaOH in 500 ml. of H2O was stirred and heated on a steam bath for 2 hours. The reaction solution was acidified with 87 ml. of conc. HCl, keeping the temperature below 20°C. The acid solution was extracted three times using a total of 1500 ml. of benzene. The combined benzene extracts were dried over anhydrous MgSO4, filtered and concentrated in vacuo to give 33 g. m.p. 78°-80°.

reactant | 4-methoxy-3-nitrophenyl acetate | C(C)(=O)OC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C9H9NO5
reactant | NaOH | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | H2O | O | H2O
product | 4-Methoxy-3-nitrophenol | COC1=C(C=C(C=C1)O)[N+](=O)[O-] | C7H7NO4
